US07872014B2
A mixture of 1-(4-bromo-2-hydroxynapthalen-1-yl)ethanone (0.255 g, 0.96 mmol), (4-hydroxyphenyl)boronic acid (0.140 g, 1.06 mmol), Pd(PPh3)4 (0.056 g, 0.048 mmol) and potassium carbonate (0.4 g, 2.88 mmol) in water (9.7 mL) in dioxane (32.0 mL) was flushed with nitrogen, sealed and heated for 2 h in a 100° C. oil bath. The solution was cooled to room temperature and partitioned between 200 mL of 10% methanol in ethyl acetate and 100 mL saturated aqueous sodium chloride. The layers were separated and the aqueous layer was extracted (2×50 mL 10% methanol in ethyl acetate). The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. Column chromatography (SiO2, 5:1 hexanes/ethyl acetate) gave 0.223 g (83%) of 1-[2-hydroxy-4-(4-hydroxyphenyl)napthalen-1-yl]ethanone. 1H NMR (400 MHz, d6-DMSO): 8.11 (d, 1H), 7.87 (d, 1H), 7.56 (dt, 1H), 7.33 (m, 3H), 7.07 (s, 1H), 6.99 (d, 2H), 2.89 (s, 3H); MS (EI) for C18H14O3: 279 (MH+).

reactant | 1-(4-bromo-2-hydroxynapthalen-1-yl)ethanone | 0.96 mmol, 0.255 g | BrC1=CC(=C(C2=CC=CC=C12)C(C)=O)O | C12H9BrO2
reactant | (4-hydroxyphenyl)boronic acid | 1.06 mmol, 0.140 g | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | potassium carbonate | 2.88 mmol, 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 9.7 mL | O | H2O
solvent | dioxane | 32.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.048 mmol, 0.056 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[2-hydroxy-4-(4-hydroxyphenyl)napthalen-1-yl]ethanone | 0.223 g, 83% | OC1=C(C2=CC=CC=C2C(=C1)C1=CC=C(C=C1)O)C(C)=O | C18H14O3
